US03952046
0.390 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 10 ml. of absolute pyridine and reacted with 0.423 g. of chloroformic acid n-octyl ester as in Example 1. The 0.721 g. of brownish oil obtained according to the procedure described in Example 1 is dissolved in benzene and chromatographed on 40 g. of silica gel. Benzene elutes 0.620 g. of colorless crystals which are recrystallized from ether-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl n-octyl carbonate obtained melts at 51.64° and has a clearing point of 67.7°. UV (EtOH): ε270 = 26,000.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-octyl ester | C(CCCCCCC)OC(=O)Cl | C9H17ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl n-octyl carbonate | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(OCCCCCCCC)=O | C22H25NO3
